US06054457
A solution of 4-(2-nitrobenzoyl)amino-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-N-methylbenzamide (800 mg), 20% palladium hydroxide (200 mg) in ethanol (20 ml) was stirred under atmospheric pressure of hydrogen at ambient temperature. After 2 hours, the reaction mixture was filtered through a bed of Celite, and the solvent was removed by rotary evaporation and the crude product was purified by silica gel column chromatography (SiO2 30 g, ethyl acetate/hexane=3/1) to give 4-(2-aminobenzoyl)amino-N-methyl-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]benzamide (700 mg).

reactant | 4-(2-nitrobenzoyl)amino-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-N-methylbenzamide | 800 mg | [N+](=O)([O-])C1=C(C(=O)NC2=CC=C(C(=O)N(C)C3=C(C=C(C=C3)C)OCCCCCC(=O)OCC)C=C2)C=CC=C1 | C30H33N3O7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | 4-(2-aminobenzoyl)amino-N-methyl-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]benzamide | 700 mg | NC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)OCC)C)C=C2)C=CC=C1 | C30H35N3O5
